US05443971
3-Acetyl-4-hydroxy-6-bromomethylpyran-2-one may be reacted with ethanol in the presence of silver nitrate to give 3-acetyl-6-diethoxymethyl-4-hydroxypyran-2-one.

reactant | 3-Acetyl-4-hydroxy-6-bromomethylpyran-2-one | C(C)(=O)C=1C(OC(=CC1O)CBr)=O | C8H7BrO4
catalyst | silver nitrate | [N+](=O)([O-])[O-].[Ag+]
solvent | ethanol | C(C)O | C2H6O
product | 3-acetyl-6-diethoxymethyl-4-hydroxypyran-2-one | C(C)(=O)C=1C(OC(=CC1O)C(OCC)OCC)=O | C12H16O6
